US07910744B2
[3-(3-Pyrazolyl)phenyl]diphenylphosphane (5).
A solution of 1.8 g (5.1 mmol) of [3-(3-dimethylamino-1-oxoprop-2-en-yl)phenyl]diphenyl phosphane and 2.6 g (51 mmol) hydrazine monohydrate in 20 ml of ethanol is heated to boil under cover gas for 3 h. After cooling of the solution to room temperature, the solvent is removed in a vacuum. The remaining colorless oily residue is recrystallized from acetic acid ethyl ester. A colorless solid is obtained (yield: >70%).

reactant | [3-(3-dimethylamino-1-oxoprop-2-en-yl)phenyl]diphenyl phosphane | 5.1 mmol, 1.8 g | CN(C=CC(=O)C=1C=C(C=CC1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H22NOP
reactant | hydrazine monohydrate | 51 mmol, 2.6 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | [3-(3-Pyrazolyl)phenyl]diphenylphosphane | yield: >70% | N1N=C(C=C1)C=1C=C(C=CC1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C21H17N2P
